US07037938B2
To a solution of methyl 4-bromo-3-[[3-[2-[(tert-butoxycarbonyl)amino]ethyl]phenoxy]methyl]benzoate (410 mg) in N,N-dimethylacetamide (4.0 ml) was added dichlorobis(triphenylphosphine)palladium(II) (124 mg) and sodium acetate (362 mg), and the mixture was stirred at 130° C. for 1.5 hours under nitrogen. The mixture was cooled to room temperature, diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 3-[2-[(tert-butoxycarbonyl)amino]ethyl]-6H-benzo[c]chromene-8-carboxylate (190 mg).

reactant | methyl 4-bromo-3-[[3-[2-[(tert-butoxycarbonyl)amino]ethyl]phenoxy]methyl]benzoate | 410 mg | BrC1=C(C=C(C(=O)OC)C=C1)COC1=CC(=CC=C1)CCNC(=O)OC(C)(C)C | C22H26BrNO5
reactant | sodium acetate | 362 mg | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 4.0 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 124 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-[2-[(tert-butoxycarbonyl)amino]ethyl]-6H-benzo[c]chromene-8-carboxylate | 190 mg | C(C)(C)(C)OC(=O)NCCC1=CC=C2C3=C(COC2=C1)C=C(C=C3)C(=O)OC | C22H25NO5
